US07691882B2
3-(3-(3-Pyridin-2-yl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a mixture of (3-(pyridin-2-yl)-phenyl)-acetohydroximoyl chloride (50 mg) described in Manufacturing Example 84-1-3 and tetrahydrofuran (2 mL) were added 3-ethynyl-pyridin-2,6-diamine (6.0 mg, 0.045 mmol) described in Manufacturing Example 13-1-3 and triethylamine (38 μL, 0.27 mmol), which was stirred for 2 hours at room temperature. Water was added to the reaction mixture at the same temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound in a crude product. Then, the residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (3.7 mg, 14%) as a ditrifluoroacetic acid salt.

reactant | (3-(pyridin-2-yl)-phenyl)-acetohydroximoyl chloride | 50 mg | N1=C(C=CC=C1)C=1C=C(C=CC1)CC(=NO)Cl | C13H11ClN2O
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.045 mmol, 6.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.27 mmol, 38 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(3-Pyridin-2-yl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | N1=C(C=CC=C1)C=1C=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=CC1 | C20H17N5O
